US04933361
(a) Methyl 3-chloro-N-acetylalanine
181 g of methyl 3-chloroalanine hydrochloride were heated under reflux with 163.9 g of acetyl chloride in 1.5 l of anhydrous toluene for about 5 hours until a clear solution was obtained. This was evaporated to dryness and the residue was crystallized from ethyl acetate/petroleum ether. 170 g of product of m.p. 104° C. were obtained.

reactant | methyl 3-chloroalanine hydrochloride | 181 g | Cl.CN[C@@H](CCl)C(=O)O
reactant | acetyl chloride | 163.9 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-chloro-N-acetylalanine | 170 g | CN([C@@H](CCl)C(=O)O)C(C)=O | C6H10ClNO3
